reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C+:1]([N:2]([C:3]([O-:4])=[C:5]([O:6][H:7])[H:11])[H:10])([H:8])[H:9],91.89721676622959
[O:1]([C:2][C@@:3]1([H:10])[C@@:4]2([H:11])[C:5]([H:12])([H:13])[C:6]([H:9])([H:14])[N:7]12)[H:8]>>[O:1]([C@@:2]1([H:9])[C@@:3]2([H:10])[C@@:4]3([H:11])[C:5]([H:12])([H:13])[C@:6]1([H:14])[N:7]23)[H:8],26.058168778178903
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]=[N:6][H:10])([H:7])([H:8])[H:9],89.2954103674865
[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C:2]([C:3]#[C:4][H:9])=[C:5]=[N:6][H:8])[H:7],84.4465008317519
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C:2][C@@:4]([C:3]([H:9])([H:10])[H:11])([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],58.9976715082589
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6]([O:7][H:12])([H:14])[H:15])[C:3]([H:11])=[C:4]1[H:13])([H:8])([H:9])[H:10],87.61004432039152
[C:1](#[C:2][H:5])[C:3]#[C:4][H:6]>>[C:1]12=[C:3]3[C@@:2]1([H:5])[C@:4]23[H:6],91.687549934641
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:4](=[C:3]([H:10])[H:11])[C:5]1([H:12])[H:13]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13],75.2749912670259
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2]([O:3][H:11])=[C:4](/[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],54.952983396871296
[O:1]([C:2]([C:3][C:7]([C:5]([C:4]([H:11])([H:12])[H:13])=[O:6])([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],11.454981550295699
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([N+:6]#[C-:5])[H:11])[H:7],61.7583409940154
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([C:2](=[C:6]=[N:7][C@:4]([C:3]([H:11])([H:12])[H:14])([O:5][H:15])[H:13])[H:10])([H:8])[H:9],96.6380794455558
[C:1]([C:4](=[C:3]=[C:2]([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8],96.13132127568258
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])([C:6]([O:7][H:15])([H:13])[H:14])[H:12],74.4814210002418
[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1](=[N:2][H:9])([H:7])[H:8].[C:3](=[O:4])([C:5]([H:10])([H:11])[H:12])[H:6],106.069090025161
[C:1]([C:2]([C:3]([C@@:4]1([H:13])[C:5]([H:14])([H:15])[O:6]1)([H:11])[H:12])([H:10])[H:16])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9],69.30833371491714
[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C@@:2]([C:4](=[C:3])[H:9])([C:5]#[N:6])[H:8])[H:7],56.1566806048143
[C:1]([C:2](=[C:3]=[C:4]([C:5]([H:11])([H:12])[H:13])[H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8],83.385239037141
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10].[C:4]([O:5][H:16])[H:15]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],27.36220033070952
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2](\[O:6][C:5]([C:4](=[C:3])[H:9])([H:10])[H:11])[H:8])\[H:7],95.746638259687
[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]=[C:5]=[N:6][H:10])[H:11])([H:7])([H:8])[H:9],89.61380265363822
[C:1]([C:2](=[O:3])[N+:4](=[C-:5][O:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],33.302929163217605
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],84.43744624857352
[C:1]([C:2]#[N:3])([H:8])([H:9])[H:10].[C:4]1([H:11])=[C:5]([O:6][H:12])[N:7]1[H:13]>>[C:1]([c:2]1[n:3][c:4]([H:11])[c:5]([O:6][H:12])[n:7]1[H:13])([H:8])([H:9])[H:10],15.025924573246527
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]([O+:6]=[C-:5][H:13])([H:12])[C:7]1([H:14])[H:15])[H:8],78.5861576365282
[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])=[C:7]([H:13])[C:6]1=[O:5])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],123.83551218725029
